US07560491B2
To a stirred solution of the 3,4,5-Trimethoxy-2-nitrobenzoic acid (2 g, 7.77 mmol) and BH3 (1.0 M in THF, 13.2 ml) in THF (10 ml) was stirred and refluxed for 3 hours. After cooling, the reaction mixture was extracted with water and CH2Cl2. The combined organic layers were dried over MgSO4, and then evaporated to afford 4-methoxy-2-nitrobenzyl methanol. The crude 4-methoxy-2-nitrobenzyl methanol was dissolved in anhydrous CH2Cl2 (20 mL) and was subjected to pyridinium dichromate, PDC oxidation (5.84 g, 15.55 mmol)/molecular sieves (powder, 6 g) at room temperature for 16 h. The reaction mixture was filtrated by Celite and extracted with water and CH2Cl2. The organic layers were combined and evaporated. The residue was purified by flash chromatography (EtOAc:n-hexane=1:1) to afford compound A1 as a yellow solid, yield 69%. mp 73.8-75.1° C., 1H NMR (500 MHz, CDCl3) δ 3.97 (s, 3H), 3.99 (s, 6H), 7.21 (s, 1H), 9.86 (s, 1H).

reactant | 3,4,5-Trimethoxy-2-nitrobenzoic acid | 7.77 mmol, 2 g | COC=1C(=C(C(=O)O)C=C(C1OC)OC)[N+](=O)[O-] | C10H11NO7
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-methoxy-2-nitrobenzyl methanol | COC1=CC(=C(CCO)C=C1)[N+](=O)[O-] | C9H11NO4
